* Subcircuit 5bit_DACa
.subckt s5bit_DACa vrefh vrefl d0 d1 d2 d3 d4 vdd vout

.include switch.sub
r1  vrefh net-_r1-pad2_ 250
r2  net-_r1-pad2_ net-_r2-pad2_ 250
r3  net-_r2-pad2_ net-_r3-pad2_ 250
r4  net-_r3-pad2_ net-_r4-pad2_ 250
r5  net-_r4-pad2_ net-_r5-pad2_ 250
r6  net-_r5-pad2_ net-_r6-pad2_ 250
r7  net-_r6-pad2_ net-_r7-pad2_ 250
r8  net-_r7-pad2_ net-_r8-pad2_ 250
r9  net-_r8-pad2_ net-_r10-pad1_ 250
r10  net-_r10-pad1_ net-_r10-pad2_ 250
r11  net-_r10-pad2_ net-_r11-pad2_ 250
r12  net-_r11-pad2_ net-_r12-pad2_ 250
r13  net-_r12-pad2_ net-_r13-pad2_ 250
r14  net-_r13-pad2_ net-_r14-pad2_ 250
r15  net-_r14-pad2_ net-_r15-pad2_ 250
r16  net-_r15-pad2_ net-_r16-pad2_ 250
r32  vrefl net-_r31-pad1_ 250
r31  net-_r31-pad1_ net-_r30-pad1_ 250
r30  net-_r30-pad1_ net-_r29-pad1_ 250
r29  net-_r29-pad1_ net-_r28-pad1_ 250
r28  net-_r28-pad1_ net-_r27-pad1_ 250
r27  net-_r27-pad1_ net-_r26-pad1_ 250
r26  net-_r26-pad1_ net-_r25-pad1_ 250
r25  net-_r25-pad1_ net-_r24-pad1_ 250
r24  net-_r24-pad1_ net-_r23-pad1_ 250
r23  net-_r23-pad1_ net-_r22-pad1_ 250
r22  net-_r22-pad1_ net-_r21-pad1_ 250
r21  net-_r21-pad1_ net-_r20-pad1_ 250
r20  net-_r20-pad1_ net-_r19-pad1_ 250
r19  net-_r19-pad1_ net-_r18-pad1_ 250
r18  net-_r18-pad1_ net-_r17-pad1_ 250
r17  net-_r17-pad1_ net-_r16-pad2_ 250
x1 d0 vdd net-_r1-pad2_ net-_r2-pad2_ net-_x1-pad5_ switch
x2 d0 vdd net-_r3-pad2_ net-_r4-pad2_ net-_x11-pad4_ switch
x3 d0 vdd net-_r5-pad2_ net-_r6-pad2_ net-_x12-pad3_ switch
x4 d0 vdd net-_r7-pad2_ net-_r8-pad2_ net-_x12-pad4_ switch
x5 d0 vdd net-_r10-pad1_ net-_r10-pad2_ net-_x13-pad3_ switch
x6 d0 vdd net-_r11-pad2_ net-_r12-pad2_ net-_x13-pad4_ switch
x7 d0 vdd net-_r13-pad2_ net-_r14-pad2_ net-_x14-pad3_ switch
x8 d0 vdd net-_r15-pad2_ net-_r16-pad2_ net-_x14-pad4_ switch
x9 d0 vdd net-_r17-pad1_ net-_r18-pad1_ net-_x15-pad3_ switch
x10 d0 vdd net-_r19-pad1_ net-_r20-pad1_ net-_x10-pad5_ switch
x110 d0 vdd net-_r21-pad1_ net-_r22-pad1_ net-_x110-pad5_ switch
x120 d0 vdd net-_r23-pad1_ net-_r24-pad1_ net-_x120-pad5_ switch
x130 d0 vdd net-_r25-pad1_ net-_r26-pad1_ net-_x130-pad5_ switch
x140 d0 vdd net-_r27-pad1_ net-_r28-pad1_ net-_x140-pad5_ switch
x150 d0 vdd net-_r29-pad1_ net-_r30-pad1_ net-_x150-pad5_ switch
x160 d0 vdd net-_r31-pad1_ vrefl net-_x160-pad5_ switch
x11 d1 vdd net-_x1-pad5_ net-_x11-pad4_ net-_x11-pad5_ switch
x12 d1 vdd net-_x12-pad3_ net-_x12-pad4_ net-_x12-pad5_ switch
x13 d1 vdd net-_x13-pad3_ net-_x13-pad4_ net-_x13-pad5_ switch
x14 d1 vdd net-_x14-pad3_ net-_x14-pad4_ net-_x14-pad5_ switch
x15 d1 vdd net-_x15-pad3_ net-_x10-pad5_ net-_x15-pad5_ switch
x16 d1 vdd net-_x110-pad5_ net-_x120-pad5_ net-_x16-pad5_ switch
x17 d1 vdd net-_x130-pad5_ net-_x140-pad5_ net-_x17-pad5_ switch
x18 d1 vdd net-_x150-pad5_ net-_x160-pad5_ net-_x18-pad5_ switch
x21 d2 vdd net-_x11-pad5_ net-_x12-pad5_ net-_x21-pad5_ switch
x24 d2 vdd net-_x17-pad5_ net-_x18-pad5_ net-_x24-pad5_ switch
x22 d2 vdd net-_x13-pad5_ net-_x14-pad5_ net-_x22-pad5_ switch
x23 d2 vdd net-_x15-pad5_ net-_x16-pad5_ net-_x23-pad5_ switch
x31 d3 vdd net-_x21-pad5_ net-_x22-pad5_ net-_x31-pad5_ switch
x32 d3 vdd net-_x23-pad5_ net-_x24-pad5_ net-_x32-pad5_ switch
x41 d4 vdd net-_x31-pad5_ net-_x32-pad5_ vout switch
* Control Statements

.ends s5bit_DACa
